US07608723B2
To a solution of N1-benzyl-4-methyl-benzene-1,2-diamine (1.24 mmol) and triethylamine (0.26 mL, 1.86 mmol) in dry DMF (5 mL), was added boc-D-valine (296 mg, 1.36 mmol) followed by TBTU (400 mg, 1.24 mmol). The reaction mixture was stirred at room temperature overnight. Ethyl acetate was added. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered, and the filtrated was concentrated in vacuo. The crude material was purified by flash chromatography to yield [1-(2-Benzylamino-5-methyl-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester.

reactant | N1-benzyl-4-methyl-benzene-1,2-diamine | 1.24 mmol | C(C1=CC=CC=C1)NC=1C(=CC(=CC1)C)N | C14H16N2
reactant | triethylamine | 1.86 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | boc-D-valine | 1.36 mmol, 296 mg | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | TBTU | 1.24 mmol, 400 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-(2-Benzylamino-5-methyl-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(C)C)C(NC1=C(C=CC(=C1)C)NCC1=CC=CC=C1)=O)=O | C24H33N3O3
